US06518423B1
[N-(2-Pyridyl)aminometyl](10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)ketone
To 3 ml of a solution of 140 mg of 2-aminopyridine in ethanol was added 130 mg of sodium hydrogencarbonate and the resulting mixture was stirred at room temperature. Next, 2 ml of a solution of 360 mg of bromomethyl(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)ketone in tetrahydrofuran was dropped thereinto and the resulting mixture was heated under reflux for 2 hours. Then the reaction mixture was brought back to room temperature and silica gel was added thereto. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluted with dichloromethane/methanol) to thereby give 200 mg of the title compound as yellow crystals.

reactant | 2-aminopyridine | 140 mg | NC1=NC=CC=C1 | C5H6N2
reactant | sodium hydrogencarbonate | 130 mg | C(O)([O-])=O.[Na+]
reactant | bromomethyl(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)ketone | 360 mg | BrCC(=O)C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C14H12BrN3O2S
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [N-(2-Pyridyl)aminometyl](10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)ketone | 200 mg | N1=C(C=CC=C1)NCC(=O)C=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C19H17N5O2S
